US05153352
Step N: 2-(((1,1-dimethylethyl)diphenylsilyl)oxy)-3-(((1,1-dimethylethyl)-diphenylsilyl)oxymethyl)-1-aminocyclobutane
2-(((1,1-dimethylethyl)diphenylsilyl)oxy)-3-(((1,1-dimethylethyl)diphenyl-silyl)oxymethyl)-1-azidocyclobutane (800 mg, 1.29 mmol), the product of Step M, was dissolved in 20 mL of methanol. To this solution was added 200 mg of 5% palladium on carbon, followed by 420 mg of ammonium formate. The flask was stoppered and the reaction mixture was stirred at ambient temperature for 23 h. The reaction mixture was filtered and the filtrate concentrated under reduced pressure. The residue was dissolved in 200 mL of diethyl ether and the ether solution was washed with 100 mL of 5% aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 707 mg (92% yield) of the title compound; MS DCI-NH3M/Z: 594 (M+H)+ ; 1H NMR (CDCl3) δ 0.88-1.08 (m, 18H), 1.95-2.15 (m, 3H), 3.01 (q, 1H), 3.5 (m, 2H), 3.68 (t, 1H).

reactant | 2-(((1,1-dimethylethyl)diphenylsilyl)oxy)-3-(((1,1-dimethylethyl)diphenyl-silyl)oxymethyl)-1-azidocyclobutane | 1.29 mmol, 800 mg | CC(C)(C)[Si](OC1C(CC1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N=[N+]=[N-])(C1=CC=CC=C1)C1=CC=CC=C1 | C37H45N3O2Si2
reactant | ammonium formate | 420 mg | C(=O)[O-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 2-(((1,1-dimethylethyl)diphenylsilyl)oxy)-3-(((1,1-dimethylethyl)-diphenylsilyl)oxymethyl)-1-aminocyclobutane | 707 mg, 92% yield | CC(C)(C)[Si](OC1C(CC1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H47NO2Si2
